US07615651B2
Preparation of 2-Methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide (E4-01)
4′-Formyl-2-methylbiphenyl-4-carboxamide (I-4a: 4.3 g, 18.0 mmol) and isoamylamine (36.2 mg, 0.425 mmol) were combined in methanol (100 ml). After 12 hours, the reaction mixture was treated with sodium borohydride (2.10 g, 53.9 mmol). After 1 hour, the reaction mixture was treated with concentrated (37%) aqueous hydrochloric acid solution and the volatiles were removed under reduced pressure. The residue was taken up in 2N sodium hydroxide and extracted with ethyl acetate (2 times). The combined organic phases were washed with a saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the title compound (E4-01).

reactant | 4′-Formyl-2-methylbiphenyl-4-carboxamide | 18.0 mmol, 4.3 g | C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)N)C | C15H13NO2
reactant | isoamylamine | 0.425 mmol, 36.2 mg | C(CC(C)C)N | C5H13N
reactant | sodium borohydride | 53.9 mmol, 2.10 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-Methyl-4′-[(3-methyl-butylamino)-methyl]-biphenyl-4-carboxylic acid amide | CC1=C(C=CC(=C1)C(=O)N)C1=CC=C(C=C1)CNCCC(C)C | C20H26N2O
